// Generated for: spectre (Apr 19 14:38:25 2013 )
// Library name: gsclib045_lvt
// Cell name: TLATNSRX4
// View name: schematic

simulator lang=spectre

subckt TLATNSRX4 D GN Q QN RN SN VSS VDD
mp6 (n5 GNbb net313 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp5 (net313 D VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp10 (qint SN VDD VDD) g45p1lvt w=(620n) l=45n nf=1 as=86.8f ad=86.8f \
        ps=1.52u pd=1.52u nrd=225.806m nrs=225.806m sa=140n sb=140n \
        sd=160n sca=89.83593 scb=0.07618 scc=0.01064 m=(1)
mp22 (QN qint VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp21 (Q qbint VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp0 (GNbp GN VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp3 (GNb GNbb VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp17 (n5 GNb net270 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp2 (GNbb GNbp VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp16 (net270 qint VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f \
        ad=30.1f ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n \
        sd=160n sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp15 (net270 RN VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp20 (qbint qint VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp1 (GNbb RN VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp11 (qint n5 VDD VDD) g45p1lvt w=(620n) l=45n nf=1 as=86.8f ad=86.8f \
        ps=1.52u pd=1.52u nrd=225.806m nrs=225.806m sa=140n sb=140n \
        sd=160n sca=89.83593 scb=0.07618 scc=0.01064 m=(1)
mn5 (net366 D VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn6 (n5 GNb net366 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn17 (n5 GNbb net354 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn16 (net354 qint net350 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f \
        ad=20.3f ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n \
        sd=160n sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn15 (net350 RN VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn11 (qint n5 net342 VSS) g45n1lvt w=(410n) l=45n nf=1 as=57.4f ad=57.4f \
        ps=1.1u pd=1.1u nrd=341.463m nrs=341.463m sa=140n sb=140n sd=160n \
        sca=111.73831 scb=0.08844 scc=0.01336 m=(1)
mn10 (net342 SN VSS VSS) g45n1lvt w=(410n) l=45n nf=1 as=57.4f ad=57.4f \
        ps=1.1u pd=1.1u nrd=341.463m nrs=341.463m sa=140n sb=140n sd=160n \
        sca=111.73831 scb=0.08844 scc=0.01336 m=(1)
mn21 (Q qbint VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn0 (GNbp GN VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn2 (GNbb GNbp net326 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn1 (net326 RN VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn3 (GNb GNbb VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn20 (qbint qint VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn22 (QN qint VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
ends TLATNSRX4
// End of subcircuit definition.

