// Generated for: spectre (Apr 19 14:38:58 2013 )
// Library name: gsclib045_lvt
// Cell name: XNOR3XL
// View name: schematic

simulator lang=spectre

subckt XNOR3XL A B C Y VSS VDD
mp8 (Y n11 VDD VDD) g45p1lvt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mp3 (n62 A VDD VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp6 (n9 n60 n11 VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp11 (n62 n61 n12 VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp2 (n62 B n9 VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f ps=900n \
        pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp5 (n12 C n11 VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp1 (n8 n61 n9 VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp10 (n8 B n12 VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp4 (n61 B VDD VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp9 (n8 n62 VDD VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp7 (n60 C VDD VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mn8 (Y n11 VSS VSS) g45n1lvt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn10 (n12 n61 n8 VSS) g45n1lvt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn2 (n9 n61 n62 VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f \
        ps=660n pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn1 (n9 B n8 VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f ps=660n \
        pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn9 (n8 n62 VSS VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f \
        ps=660n pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn11 (n12 B n62 VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f \
        ps=660n pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn6 (n11 C n9 VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f ps=660n \
        pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn5 (n11 n60 n12 VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f \
        ps=660n pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn7 (n60 C VSS VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f \
        ps=660n pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn4 (n61 B VSS VSS) g45n1lvt w=(190n) l=45n nf=1 as=26.6f ad=26.6f \
        ps=660n pd=660n nrd=736.842m nrs=736.842m sa=140n sb=140n sd=160n \
        sca=174.14966 scb=0.11032 scc=0.02167 m=(1)
mn3 (n62 A VSS VSS) g45n1lvt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
ends XNOR3XL
// End of subcircuit definition.

