// Generated for: spectre (Apr 19 14:39:02 2013 )
// Library name: gsclib045_lvt
// Cell name: XOR2X4
// View name: schematic

simulator lang=spectre

subckt XOR2X4 A B Y VDD VSS
mp3 (n0 n2 net130 VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp1 (n2 B VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp4 (n1 B n0 VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f ps=1.06u \
        pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n sd=160n \
        sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp0 (n1 A VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp5 (Y n0 VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp2 (net130 n1 VDD VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mn1 (n2 B VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn0 (n1 A VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn5 (Y n0 VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn3 (n0 B net131 VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn4 (n0 n2 n1 VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f ps=800n \
        pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn2 (net131 n1 VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
ends XOR2X4
// End of subcircuit definition.

